US05763458
Proceeding as in Example 4, Step (c), but replacing 1-(4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one with 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloropentan-1-one and piperidine with 4-(2-hydroxyethyl)piperidine, gave 1-[4-amino-5-chloro-2-(3,5-dimethoxy-benzyloxy)phenyl]-5-[4-(2-hydroxyethyl)piperidin-1-yl]pentan-1-one hydrochloride, m.p. 180-183° C.

reactant | 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloropentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OCC1=CC(=CC(=C1)OC)OC | C22H25Cl2NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-(2-hydroxyethyl)piperidine | OCCC1CCNCC1 | C7H15NO
product | 1-[4-amino-5-chloro-2-(3,5-dimethoxy-benzyloxy)phenyl]-5-[4-(2-hydroxyethyl)piperidin-1-yl]pentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCC(CC1)CCO)=O)OCC1=CC(=CC(=C1)OC)OC | InChI=1S/C27H37ClN2O5.ClH/c1-33-21-13-20(14-22(15-21)34-2)18-35-27-17-25(29)24(28)16-23(27)26(32)5-3-4-9-30-10-6-19(7-11-30)8-12-31;/h13-17,19,31H,3-12,18,29H2,1-2H3;1H
